datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](#[C:10][C:11]([C:12]([H:15])([H:16])[H:17])[H:14])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10]#[C:9][H:13])([C:12]([H:15])([H:16])[H:17])[H:14],64.2662
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][O:29],23.028736
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[S:8]=[C:9]([C:10]([S:11][H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9](=[S:8])[H:12])([S:11][H:14])[H:13],64.4754
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])([H:18])[C:29]([H:30])([H:31])[H:32])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17],29.4135
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18],-9.45584
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][O:24]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][O:23][O:24],199.11656
[C:0](#[C:1][C:2]1=[C:3]([H:8])[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11])[H:7]>>[C:0](#[C:1][C:2]1=[C:3][C:4]([H:8])([H:9])[C:5]([H:10])=[C:6]1[H:11])[H:7],275.22352
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]=[S:11])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:12])([H:13])[H:14])=[S:11],43.0952
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17],74.1405
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([S:10][H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9]([C:8]([H:11])([H:12])[H:13])([S:10][H:15])[H:14],35.9824
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:17]([C:16]([H:19])([H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])[H:8])([H:6])[H:7],25.3132
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[C:5](=[C:6]([H:18])[H:19])[H:17])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[C:5]([H:17])[C:6]1([H:18])[H:19],56.0656
[C:0](#[C:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7].[H:11]>>[C:0](#[C:1][C:2]#[C:3][C:4]([C:5](=[C:6][H:10])[H:11])([H:8])[H:9])[H:7],13.01224
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[H:7][H:22],0.0
[C:0](=[C:1]([O:2][O:3][H:7])[H:6])([H:4])[H:5].[O:8][H:9]>>[C:0](=[C:1]([O:2][O:3])[H:6])([H:4])[H:5].[H:7][O:8][H:9],-1.828408
[C:0]([C:1](=[C:2]([O:3])[H:8])[H:7])([H:4])([H:5])[H:6].[H:9]>>[C:0]([C:1]([C:2]([O:3])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6],30.9616
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])=[C:8]([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])([H:16])[H:17])[H:15])[H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])[H:12],124.934
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([S:9][H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8]([C:7]([H:10])([H:11])[H:12])([S:9][H:14])[H:13],89.9142
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[S:8]=[C:9][S:10][H:11]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9](=[S:8])[S:10][H:11],69.036
